US07915261B2
TEA (2.30 ml) and methanesulfonyl chloride (1.22 ml) were dropwise added to a THF (40 ml) solution containing tert-butyl 4-hydroxypiperidine-1-carboxylate (3.02 g) at 0° C., followed by stirring at room temperature for 1 hour. EtOAc (50 ml) and water (50 ml) were added to the reaction solution. The organic layer was washed with aqueous 5% citric acid solution, an aqueous saturated sodium hydrogencarbonate solution and saturated brine in that order, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain a pale orange oil. The resulting oil was dissolved in DMA (25 ml), and cesium carbonate (5.38 g) and 4-sulfanylphenol (1.89 g) were added thereto, followed by heating at 50° C. for 2 hours. The reaction solution was cooled, water was added thereto, followed by extraction with EtOAc. The organic layer was washed with an aqueous 1 M hydrochloric acid solution and saturated brine in that order, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: hexane:EtOAc=4:1 (v/v)) to obtain tert-butyl 4-[(4-hydroxyphenyl)sulfanyl]piperidine-1-carboxylate (3.40 g) as colorless powder.

reactant | methanesulfonyl chloride | 1.22 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | tert-butyl 4-hydroxypiperidine-1-carboxylate | 3.02 g | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | cesium carbonate | 5.38 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-sulfanylphenol | 1.89 g | SC1=CC=C(C=C1)O | C6H6OS
solvent | DMA | 25 ml | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
solvent | water | 50 ml | O | H2O
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | tert-butyl 4-[(4-hydroxyphenyl)sulfanyl]piperidine-1-carboxylate | 3.40 g | OC1=CC=C(C=C1)SC1CCN(CC1)C(=O)OC(C)(C)C | C16H23NO3S
